US05273999
Preparation of 2-[(6-Bromohexyl)oxy]-5-[[3-(ethoxycarbonyl)phenyl]carbonyl]benzenepropanoic Acid Ethyl Ester
A mixture of 0.393 g (1.06 mmol) of 5-[[3-(ethoxycarbonyl)phenyl]carbonyl]-2-hydroxybenzenepropanoic acid ethyl ester, 2.06 g (8.44 mmol) of 1,6-dibromohexane, 0.882 g (6.39 mmol) of anhydrous granular potassium carbonate and 15 mL of 2-butanone was stirred and refluxed for 18.5 hrs. The resulting slurry was filtered with suction and the solids were washed thoroughly with ethyl acetate. The filtrate and washes were combined and concentrated in vacuo and the residue was purified by flash chromatography on 75 g of silica gel, eluting with 5:1 hexane-ethyl acetate, giving 0.43 g (75.8%) of the title compound as a colorless oil.

reactant | 5-[[3-(ethoxycarbonyl)phenyl]carbonyl]-2-hydroxybenzenepropanoic acid ethyl ester | 1.06 mmol, 0.393 g | C(C)OC(CCC1=C(C=CC(=C1)C(=O)C1=CC(=CC=C1)C(=O)OCC)O)=O | C21H22O6
reactant | 1,6-dibromohexane | 8.44 mmol, 2.06 g | BrCCCCCCBr | C6H12Br2
reactant | potassium carbonate | 6.39 mmol, 0.882 g | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | 15 mL | CC(CC)=O | C4H8O
product | 2-[(6-Bromohexyl)oxy]-5-[[3-(ethoxycarbonyl)phenyl]carbonyl]benzenepropanoic Acid Ethyl Ester | 0.43 g, 75.8% | C(C)OC(CCC1=C(C=CC(=C1)C(=O)C1=CC(=CC=C1)C(=O)OCC)OCCCCCCBr)=O | C27H33BrO6
